US07816378B2
To a solution of 3-aminodihydrofuran-2(3H)-one hydrobromide (5 g, 27.5 mmol) in DCM (50 mL) was added benzophenone imine (5 g, 27.5 mmol) and the reaction mixture was stirred at RT for 3 days. The reaction mixture was diluted with water and DCM, the organic layer was extracted, washed with aquous sodium bicarbonate, brine, dried over sodium sulfate and concentrated in vacuo to give 3-[(diphenylmethylene)amino]dihydrofuran-2(3H)-one as a thick colorless gel which crystallized to a white solid.

reactant | 3-aminodihydrofuran-2(3H)-one hydrobromide | 27.5 mmol, 5 g | Br.NC1C(OCC1)=O
reactant | benzophenone imine | 27.5 mmol, 5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 3-[(diphenylmethylene)amino]dihydrofuran-2(3H)-one | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NC1C(OCC1)=O | C17H15NO2
